US07534788B2
Step 2: [4-Chloro-2-(hydroxy-phenyl-methyl)-5-methoxy-phenoxy]-acetic acid ethyl ester
To a solution of the above prepared 4-chloro-2-(hydroxy-phenyl-methyl)-5-methoxy-phenol (1.39 g, 5.25 mmol) in 15 mL acetonitrile were successively added Cs2CO3 (2.22 g, 1.3 eq.) and ethyl bromoacetate (0.67 mL 1.15 eq.) and the mixture vigorously stirred at ambient temperature over night. Pouring onto crashed ice/NH4Cl, twofold extraction with AcOEt, washing with water, drying over sodium sulfate, and evaporation of the solvents left 1.91 g of the title compound as off-white gum, used directly for the next step.

reactant | 4-chloro-2-(hydroxy-phenyl-methyl)-5-methoxy-phenol | 5.25 mmol, 1.39 g | ClC1=CC(=C(C=C1OC)O)C(C1=CC=CC=C1)O | C14H13ClO3
reactant | Cs2CO3 | 2.22 g, 1.3 eq. | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | ethyl bromoacetate | 0.67 mL, 1.15 eq. | BrCC(=O)OCC | C4H7BrO2
solvent | acetonitrile | 15 mL | C(C)#N | C2H3N
product | [4-Chloro-2-(hydroxy-phenyl-methyl)-5-methoxy-phenoxy]-acetic acid ethyl ester | C(C)OC(COC1=C(C=C(C(=C1)OC)Cl)C(C1=CC=CC=C1)O)=O | C18H19ClO5
